US05254575
A solution of ethyl 4-(3-chloro-4,5-dimethoxyphenyl)-thiazole-2-carboxylate (21.8 g) in 1,2-ethanediol (150 ml) at 120° C. was treated with ammonia gas for 25 min. The mixture was cooled in an ice-bath and the resultant suspension was filtered, washed with methanol, and dried at 60° C. under vacuum to give 4-(3-chloro-4,5-dimethoxyphenyl)-thiazole-2-carboxamide (18.7 g), m.p. 178°-180° C.

reactant | ethyl 4-(3-chloro-4,5-dimethoxyphenyl)-thiazole-2-carboxylate | 21.8 g | ClC=1C=C(C=C(C1OC)OC)C=1N=C(SC1)C(=O)OCC | C14H14ClNO4S
reactant | ammonia | N | H3N
solvent | 1,2-ethanediol | 150 ml | C(CO)O | C2H6O2
product | 4-(3-chloro-4,5-dimethoxyphenyl)-thiazole-2-carboxamide | 18.7 g | ClC=1C=C(C=C(C1OC)OC)C=1N=C(SC1)C(=O)N | C12H11ClN2O3S
